Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Chest pressure, DOE
 
Major Surgical or Invasive Procedure:
___ Cardiac catherization, DES to OM1

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:  
Mr. ___ is a ___ PMH HTN, CKD stage II who presented to
___ for chest pressure and DOE and now transferred for NSTEMI. 

On ___ around noon, developed persistent substernal chest
pressure and DOE. Pressure did not radiate. He denied any
lightheadedness, dizziness, nausea or diaphoresis. Given that
these symptoms persisted for about 12 hours he then presented to
___. 

Of note, patient remarked that since ___, he has been having
intermittent episodes of left sided chest pressure that last for
about ___ minutes at a frequency of once every ___ weeks.
Episodes typically brought on by exertion and self resolve with
rest. He denies the pressure radiates or has any accompanying
symptoms when the episodes occur. He did have a stress echo
completed in ___, but that was completed prior to the onset
of these episodes. He denies any episodes of DOE, PND ___ 
edema
developing over the past months.

Work-up at ___:
Initial vitals: HR 39; BP 101/38; RR 16 at 96% on RA
HR then increased to ___ and BP was ___
- Per transfer notes, EKG Sinus brady w/ HR 45, incomplete RBBB
and T wave flattening in 3, aVF and V1-V2
- CXR with mild pulmonary edema
- Trop I 1.04 (at 0045 on ___
- Given ASA 325 and started on heparin gtt
- At recommendation of cardiology at ___, he was transferred for
further work-up

In the ED:
Initial VS:
66 | 121/88 | 18 | 96% RA 

Exam:
Normal including CV: Regular rate and rhythm, normal S1/s2, no
m/g/r.

EKG:  
NSR

Labs notable for: 
    \15.4/
13.0 ---- 183
    /48.0\

Studies notable for:
None

Consults:
None

Patient was given: 
Heparin gtt

On the floor, he reports feeling better and without chest
pressure.

 
Past Medical History:
PAST MEDICAL HISTORY:  
=======================  
1. CARDIAC RISK FACTORS  
- Hypertension  
2. CARDIAC HISTORY  
- None  
3. OTHER PAST MEDICAL HISTORY  
- CKD stage II
- BPH

 
Social History:
___
Family History:
FAMILY HISTORY:  
Father had MI in mid-___
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
================================  
VS: ___ 0403 Temp: 97.6 PO BP: 117/74 HR: 59 RR: 17 O2 sat:
96% O2 delivery: Ra  
GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Sclera anicteric. PERRL. EOMI. Conjunctiva were pink. No
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: No JVP visualized  
CARDIAC: RRR. Normal S1, S2. No murmurs, rubs, or gallops.
LUNGS: Breathing comfortably on RA. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. 
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 

DISCHARGE PHYSICAL EXAMINATION:  
================================
GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Sclera anicteric. PERRL. EOMI. Conjunctiva were pink. No
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: No JVP visualized  
CARDIAC: RRR. Normal S1, S2. No murmurs, rubs, or gallops.
LUNGS: Breathing comfortably on RA. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. 
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema. Right radial catheterization site with minor 
swelling improved, distal pulses intact, hand warm. 
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 
 
Pertinent Results:
ADMISSION LABS:  
================================
___ 02:36AM BLOOD WBC-13.0* RBC-5.44 Hgb-15.4 Hct-48.0 
MCV-88 MCH-28.3 MCHC-32.1 RDW-12.8 RDWSD-41.1 Plt ___
___ 02:36AM BLOOD Neuts-89.5* Lymphs-6.1* Monos-3.6* 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-11.65* AbsLymp-0.80* 
AbsMono-0.47 AbsEos-0.01* AbsBaso-0.02
___ 02:36AM BLOOD Glucose-91 UreaN-21* Creat-1.3* Na-140 
K-4.1 Cl-104 HCO3-24 AnGap-12
___ 02:36AM BLOOD cTropnT-0.09*
___ 09:50AM BLOOD CK-MB-47* cTropnT-0.25*
___ 02:43AM BLOOD %HbA1c-5.6 eAG-114

DISCHARGE LABS
================================
___ 05:21AM BLOOD WBC-6.9 RBC-5.01 Hgb-14.4 Hct-43.6 MCV-87 
MCH-28.7 MCHC-33.0 RDW-13.2 RDWSD-41.0 Plt ___
___ 05:21AM BLOOD Glucose-90 UreaN-13 Creat-1.1 Na-141 
K-3.9 Cl-107 HCO3-24 AnGap-10
___ 05:21AM BLOOD Calcium-8.6 Phos-2.9 Mg-1.9 Cholest-140
___ 05:21AM BLOOD Triglyc-110 HDL-31* CHOL/HD-4.5 
LDLcalc-87

PERTINENT STUDIES 
================================
___ Cardiac Cath
Normal left and right heart filling pressures. Succesful PCI of 
OM1 with DES with 3.0 mm stent post dilated with a 3.25 mm NC 
balloon. No significant gradient seen across the aortic valve 
Recommendations

___ TTE
Globally preserved biventricular systolic function in the 
setting of hypokinesis of the mid-inferolateral wall. Mild 
aortic and mitral regurgitation. Normal pulmonary pressure. 
Compared with the prior stress echo ___, 
mid-inferolateral hypokinesis is now appreciated at
rest.

 
Brief Hospital Course:
===================== 
TRANSITIONAL ISSUES
===================== 
[] consider up-titration of metoprolol and initiation of 
lisinopril as tolerated
[] prior authorization for ticagrelor possibly limited to 1 
month duration, may consider clopidogrel in lieu
[] f/u with ___, MD in ___; appointment TBD
[] repeat lipids in 3 months after statin initiation ___ TC 
140, ___ 110, HLD 31, LDL 87)

- New Medications: aspirin 81mg daily, atorvastatin 80mg daily, 
metoprolol XL 12.5mg daily, nitroglycerin sublingual PRN, 
ticagrelor 90mg BID
- Discharge wt: 212.52 lb
- Discharge Cr: 1.1

===================== 
BRIEF HOSPITAL COURSE
===================== 
___ with HTN, CKD stage II presents with shortness of breath and 
chest pressure, found to have NSTEMI and OM1 95% stenosis, s/p 
uncomplicated DES to OM1. 

#CORONARIES (PCI ___: OM1 with DESx1
#PUMP (TTE ___: EF 61%
#RHYTHM: Normal Sinus Rhythm

# CODE STATUS: Full (presumed)
# CONTACT ___ (wife) ___

===================== 
ACTIVE ISSUES: 
===================== 
# NSTEMI, Type I
Patient reports intermittent episodes of angina over past 5 
months. Presented to ___ with chest pressure lasting hours and 
found to have trop I of 1.04. Presenting EKG w/ incomplete RBBB 
and t wave flattening, though repeat here remarkable only for t 
wave flattening and bradycardia. Trop T went from 0.09->0.25 
with MB 30->47. TTE revealing for mid inferolateral hypokinesis 
with preserved systolic function; Cath on ___ significant 
for 95% stenosis of ___ s/p DESx1. Started on aspirin 81, 
atorvastatin 80mg, metoprolol 12.5mg XL, ticagrelor 90mg BID, 
nitro sublingual PRN. Lisinopril not initiated due to stable low 
blood pressures. Prior authorization obtained for ticagrelor 
prior to discharge. Will need to consider up-titration of 
metoprolol and initiation of lisinopril as tolerated, could not 
increase beta blocker due to bradycardia (possibly vagally 
mediated) and low systolic blood pressures prevented additional 
of ___. Prior authorization for ticagrelor possibly limited 
to 1 month duration, may consider clopidogrel in lieu. 
Cardiology follow up with Dr. ___

# Hypertension
Was recently started on lisinopril but self d/c'ed because he 
thought it caused headache, although headache was likely ___ to 
concurrent URI and dental infection at that time. BPs were being 
monitored closely with low threshold to restart, per most recent 
outpatient note. Lisinopril was not initiated in anticipation of 
catheterization, with outpatient consideration pending BP 
tolerance (low systolic blood pressures on discharge, and no 
acute indication given preserved EF). 

# Leukocytosis
Likely stress reaction iso NSTEMI. No evidence of infection at 
this time. Resolved post-cath.

# BPH
Held home dutasteride as not on formulary.

# CKD stage II
Baseline Cr 1.2-1.3. Presented with Cr 1.3, resolved post-cath 
to 1.1.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. dutasteride 0.5 mg oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Metoprolol Succinate XL 12.5 mg PO DAILY  
4.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
5.  TiCAGRELOR 90 mg PO BID  
6.  dutasteride 0.5 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
======================
Non-ST elevation myocardial infarction, Type I

SECONDARY DIAGNOSES
===================
Hypertension 
Chronic kidney disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
================================================  
DISCHARGE INSTRUCTIONS
================================================  
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___!  

We wish you the ___,
Your ___ Team

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had shortness of breath and 
chest pressure, and you were found to have a heart attack.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- Your heart arteries were examined (cardiac catheterization) 
which showed a blockage of one of the arteries. This was opened 
by placing a tube called a stent in the artery. You were given 
medications to prevent future blockages.  
- It is very important to take your aspirin and ticagrelor (also 
known as Brilinta) every day. These two medications keep the 
stents in the vessels of the heart open and help reduce your 
risk of having a future heart attack.  
- If you stop these medications or miss ___ dose, you risk causing 
a blood clot forming in your heart stents and having another 
heart attack. Please do not stop taking either medication 
without taking to your heart doctor.  
- You are also on other new medications to help your heart, such 
as atorvastatin and metoprolol.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take your medications as listed below and to 
follow-up with the appointments scheduled.
- Continue to weigh yourself every day and if you gain 3 lbs or 
more a day, call your PCP ___ at ___. 
Likewise, call your PCP if you feel increasing shortness of 
breath or dizziness or faintness.
- We are working on a follow up appointment within 4 to 8 days 
in the Cardiology department. You will be called with the 
appointment. If you have not heard from the office within 2 
business days, please call ___

 
Followup Instructions:
___